US07348116B2
3,6-Diiodo-9-(4-methoxyphenyl)carbazole.
Potassium iodate (16.05 g, 75 mmol, obtained from Aldrich) was added in one portion to a stirred mixture of 9-(4-methoxyphenyl)carbazole (9.54 g, 34 mmol), potassium iodide (10.96 g, 66 mmol), and acetic acid (100 ml) at 80° C. The reaction mixture was stirred and heated for 1 hour. After the reaction was completed, the acetic acid was removed by distillation. The residue was dissolved in ethyl acetate and washed several times with an aqueous solution of sodium bicarbonate. The organic layer was dried over anhydrous magnesium sulfate, filtered, concentrated, and dried. The yield of 3,6-diiodo-9-(4-methoxyphenyl)carbazole was 16.07 g (87.6%). The 1H-NMR spectrum (100 MHz) of the product in CDCl3 was characterized by the following chemical shifts (δ, ppm): 4.04 (s, 3H, OCH3), 7.24-7.63 (m, 6H, Ar), 8.35-8.40 (m, 4H, Ar). The mass spectrum of the product was characterized by the following ions (in m/z): 525 (M+).

reactant | Potassium iodate | 75 mmol, 16.05 g | I(=O)(=O)[O-].[K+]
reactant | 9-(4-methoxyphenyl)carbazole | 34 mmol, 9.54 g | COC1=CC=C(C=C1)N1C2=CC=CC=C2C=2C=CC=CC12 | C19H15NO
reactant | potassium iodide | 66 mmol, 10.96 g | [I-].[K+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 3,6-Diiodo-9-(4-methoxyphenyl)carbazole | IC=1C=CC=2N(C3=CC=C(C=C3C2C1)I)C1=CC=C(C=C1)OC | C19H13I2NO
